US08802670B2
To a solution of 4-(2-aminoethyl)-morpholine (600 mg) stirring in anhydrous 1,2-dichloroethane (40 ml), was added 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde (1.31 g), followed by glacial acetic acid (277 μl) and sodium triacetoxy borohydride (1.27 g) added in several aliquots over 30 minutes. The reaction mixture was stirred for 12 hours at room temperature, then diluted with chloroform (50 ml), washed with 50% NaHCO3 solution and dried (MgSO4). The solvents were removed in vacuo to give a residue which was purified by flash silica chromatography to give (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-ylmethyl)-(2-morpholin-4-yl-ethyl)-amine (398 mg), as a white solid.

reactant | 4-(2-aminoethyl)-morpholine | 600 mg | NCCN1CCOCC1 | C6H14N2O
reactant | 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde | 1.31 g | ClC=1N=C(C2=C(N1)C=C(S2)C=O)N2CCOCC2 | C11H10ClN3O2S
reactant | acetic acid | 277 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxy borohydride | 1.27 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-ylmethyl)-(2-morpholin-4-yl-ethyl)-amine | 398 mg | ClC=1N=C(C2=C(N1)C=C(S2)CNCCN2CCOCC2)N2CCOCC2 | C17H24ClN5O2S
